US04081543
5-(1-pyrrolyl)-1,2,3,4-tetrahydrobenzo[g]isoquinoline [process c)]
3 ml of pyridine are added to a mixture of 27.0 g of 5-amino-1,2,3,4-tetrahydrobenzo[g]isoquinolin-2-ylcarboxylic acid ethyl ester in 50 ml of water. 50.4 g of dimethyl sulphate are added dropwise to this mixture within 10 minutes and the mixture is stirred for 8 hours at 55° - 60°. The resulting clear solution is diluted with 100 ml of water, and is extracted several times with chloroform. The extracts are washed neutral with water, are dried over sodium sulphate and concentrated by evaporation. The oily residue is taken up in ether, is made acid with ethereal hydrochloric acid solution and the precipitated product is filtered off and recrystallized from ethanol/ether. M.Pt. of 5-methylamino-1,2,3,4-tetrahydrobenzo[g]isoquinolin-2-ylcarboxylic acid ethyl ester hydrochloride 214° - 215°.

reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | 5-amino-1,2,3,4-tetrahydrobenzo[g]isoquinolin-2-ylcarboxylic acid ethyl ester | 27.0 g | C(C)OC(=O)N1CC2=CC3=C(C(=C2CC1)N)C=CC=C3 | C16H18N2O2
reactant | dimethyl sulphate | 50.4 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-(1-pyrrolyl)-1,2,3,4-tetrahydrobenzo[g]isoquinoline | N1(C=CC=C1)C1=C2CCNCC2=CC2=C1C=CC=C2 | C17H16N2
